US04416683
To a stirred suspension of 3.3 g of 2-amino-5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazole in 30 ml of tetrahydrofuran were added in one portion 2.8 g of benzoyl chloride. The reaction mixture was stirred at room temperature while a solution of 1.6 g of pyridine in 20 ml of tetrahydrofuran was added dropwise over thirty minutes. Following complete addition, the reaction mixture was heated at reflux for three hours. The mixture was then filtered to remove the pyridine hydrochloride, and the filtrate was washed several times with 1N hydrochloric acid solution. The organic layer was separated and the solvent was removed by evaporation under reduced pressure to provide a yellow gum. The gum was crystallized from ethanol and water to afford 1.85 g of N-[5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazol-2-yl]benzamide.

reactant | 2-amino-5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazole | 3.3 g | NC=1SC(=NN1)C(CC)(C)CC | C8H15N3S
reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | benzoyl chloride | 2.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-[5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazol-2-yl]benzamide | 1.85 g, Yield 35% | C(C)C(CC)(C)C1=NN=C(S1)NC(C1=CC=CC=C1)=O | C15H19N3OS
